US05321002
A mixture of 200 g (1.68 moles) of N,N-dimethylformamide dimethyl acetal, 145.68 g (1.12 moles) of ethyl acetoacetate, and 0.5 g (0.003 mole) of p-toluenesulfonic acid monohydrate was heated in a water bath with stirring for three hours. The color of the reaction mixture changed progressively from orange to red and finally to brown. Heating was discontinued, and the reaction mixture was allowed to sit at room temperature for approximately 18 hours. At the conclusion of this period, the mixture was distilled under vacuum, and six fractions having a boiling point in the range 145°-150° C. were analyzed by NMR spectroscopy. The NMR spectrum of each fraction was consistent with the proposed structure. These fractions were combined, yielding a total of 148.51 g of ethyl-2-dimethylaminomethyleneacetoacetate.

reactant | N,N-dimethylformamide dimethyl acetal | 1.68 moles, 200 g | COC(N(C)C)OC | C5H13NO2
reactant | ethyl acetoacetate | 1.12 moles, 145.68 g | C(CC(=O)C)(=O)OCC | C6H10O3
catalyst | p-toluenesulfonic acid monohydrate | 0.003 mole, 0.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | ethyl-2-dimethylaminomethyleneacetoacetate | 148.51 g | C(C)OC(C(C(=O)C)=CN(C)C)=O | C9H15NO3
